US06927228B2
(b) N-(2-Benzyloxy-5-bromo benzyl)-N-methylamine
In a manner similar to that of Example 75(b), by reacting 22.5 g (77 mmol) of 2-benzyloxy-5-bromobenzaldehyde, 26.1 g (386 mmol) of methylamine hydrochloride and 7.3 g (116 mmol) of sodium cyanoborohydride, and after purification by chromatography on a column of silica eluted with a dichloromethane/methanol mixture (9/1) and 0.5% isopropylamine, 12.2 g (51%) of the expected product are obtained in the form of a pale yellow oil.

reactant | 2-benzyloxy-5-bromobenzaldehyde | 77 mmol, 22.5 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)Br | C14H11BrO2
reactant | methylamine hydrochloride | 386 mmol, 26.1 g | Cl.CN
reactant | sodium cyanoborohydride | 116 mmol, 7.3 g | C(#N)[BH3-].[Na+]
product | N-(2-Benzyloxy-5-bromo benzyl)-N-methylamine | C(C1=CC=CC=C1)OC1=C(CNC)C=C(C=C1)Br | C15H16BrNO
